US08008298B2
A flask was charged with sodium hydride (953 mg, 23.8 mmol, 60% in oil), in dry DMF (30 ml) and cooled to 0° C. (ice bath) under nitrogen atmosphere. 3,5-Dibromophenol (5 g, 19.9 mmol) was added in 4 equal portions over 10 minutes. After complete addition the cooling bath was removed and the mixture allowed to warm to ambient temperature over 20 minutes. Chloromethyl methyl ether (1.8 ml, 21.8 mmol) was added slowly, via syringe over about 5 minutes. The mixture was stirred over night. The material was quenched via the addition of saturated aqueous NH4Cl (20 ml) and all volatiles were stripped (rotovap/mechanical pump). The remainder was taken up in water (80 ml) and ethyl acetate (80 ml) and the material shaken in a separtatory funnel. The ethyl acetate phase was collected and washed with an equal volume of brine solution. The aqueous phases were back extracted with ethyl acetate (2×50 ml), the organics combined, dried (MgSO4), filtered and stripped to provide a crude oil. The oil was purified by silica gel chromatography using 4%-6% EtOAc in hexanes as eluant to provide 5.74 g of 1,3-dibromo-5-methoxymethoxy-benzene as a light yellow oil.

reactant | sodium hydride | 23.8 mmol, 953 mg | [H-].[Na+]
reactant | 3,5-Dibromophenol | 19.9 mmol, 5 g | BrC=1C=C(C=C(C1)Br)O | C6H4Br2O
reactant | Chloromethyl methyl ether | 21.8 mmol, 1.8 ml | COCCl | C2H5ClO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1,3-dibromo-5-methoxymethoxy-benzene | 5.74 g | BrC1=CC(=CC(=C1)OCOC)Br | C8H8Br2O2
